US07265149B2
In analogy to the procedure described for example 3 c], (6-hydroxy-4-methyl-indol-1-yl)-acetic acid tert-butyl ester was reacted with [2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-methanol in the presence of N,N,N′,N′-tetramethyl azodicarboxamide and tributylphosphine to give {4-methyl-6-[2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester as colorless liquid.

reactant | (6-hydroxy-4-methyl-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=C(C=C(C=C12)O)C)=O | C15H19NO3
reactant | [2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-methanol | CN1N=C(C=C1CO)C1=CC=C(C=C1)OC(F)(F)F | C12H11F3N2O2
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
product | {4-methyl-6-[2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=C(C=C(C=C12)OCC=1N(N=C(C1)C1=CC=C(C=C1)OC(F)(F)F)C)C)=O | C27H28F3N3O4
